US07612114B2
4-(1-Dimethylaminocyclopentylmethoxy)benzaldehyde
Synthesized from 4-(1-aminocyclopentylmethoxy)benzonitrile according to an analogous synthetic method to Preparation Example 18, 4-(1-dimethylaminocyclopentylmethoxy)benzonitrile (1.2 g) was used according to an analogous synthetic method to Preparation Example 16 to provide the title compound (1.2 g).

reactant | 4-(1-aminocyclopentylmethoxy)benzonitrile | NC1(CCCC1)COC1=CC=C(C#N)C=C1 | C13H16N2O
reactant | 4-(1-dimethylaminocyclopentylmethoxy)benzonitrile | 1.2 g | CN(C1(CCCC1)COC1=CC=C(C#N)C=C1)C | C15H20N2O
product | 4-(1-Dimethylaminocyclopentylmethoxy)benzaldehyde | 1.2 g | CN(C1(CCCC1)COC1=CC=C(C=O)C=C1)C | C15H21NO2
